US05910504
3-Fluoro-4-(1H-indol-1-yl)nitrobenzene
A slurry of 334 mg (374 mg of 60% in oil, 9.35 mmol) of sodium hydride in 5 mL THF was treated with a solution of 1.0 g (8.5 mmol) of indole in 5 mL THF, followed by stirring at ambient temperature for 15 min. The solution was then treated with 1.35 g (8.5 mmol) of 3,4-difluoronitrobenzene. The solution was stirred at ambient temperature for 48 h, followed by concentration in vacuo to afford brown oil which was dissolved in ethyl acetate and washed with water. Drying (Na2SO4) and concentration in vacuo afforded an oil which was chromatographed over 100 g of 230-400 mesh silica gel, eluting with 20% (v/v) ethyl acetate in hexane. These procedures afforded 1.1 g (51%) of the title compound as a yellow solid. 1H NMR (CDCl3): δ 8.23, 7.74, 7.40, 7.35, 7.30, 6.80.

reactant | sodium hydride | 9.35 mmol, 334 mg | [H-].[Na+]
reactant | indole | 8.5 mmol, 1.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3,4-difluoronitrobenzene | 8.5 mmol, 1.35 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Fluoro-4-(1H-indol-1-yl)nitrobenzene | 1.1 g, 51% | FC=1C=C(C=CC1N1C=CC2=CC=CC=C12)[N+](=O)[O-] | C14H9FN2O2
